US04829067
5.3 g of methyl 3-acetylsalicylate are dissolved in 50 ml of dimethylformamide and the solution is added dropwise to a suspension of 1.26 g of 62.5% sodium hydride in 15 ml of dimethylformamide, and the mixture is stirred for 20 minutes. 5.40 g of methyl 2-bromo-propionate are added dropwise to the mixture and the mixture is heated at 60°-80° C. for 7 hours. The reaction mixture is poured into ice-water and the aqueous mixture is extracted with ethyl acetate. The extract is washed with water, dried and evaporated to remove solvent. The residue is purified by silica gel column chromatography (solvent; n-hexane:ethyl acetate=3:1) to give 5.10 g of methyl 2-(2-methoxycarbonyl-6-acetylphenoxy)propionate as colorless oil.

reactant | methyl 3-acetylsalicylate | 5.3 g | C(C)(=O)C1=C(C(C(=O)OC)=CC=C1)O | C10H10O4
reactant | sodium hydride | 1.26 g | [H-].[Na+]
reactant | methyl 2-bromo-propionate | 5.40 g | BrC(C(=O)OC)C | C4H7BrO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | methyl 2-(2-methoxycarbonyl-6-acetylphenoxy)propionate | 5.10 g | COC(=O)C1=C(OC(C(=O)OC)C)C(=CC=C1)C(C)=O | C14H16O6
